US08530647B2
A suspension of 10 g of 10-methoxyiminostilbene in 250 ml dichloromethane was treated with 17.5 g of sodium cyanate and 24 g of mandelic acid and was heated to reflux for about 6-8 hrs. The reaction mixture was cooled to room temperature and the reaction mixture was washed with distilled water and aqueous sodium bicarbonate and further the organic layer was distilled off completely. The resulting residue was treated with isopropanol; separated solid was filtered and dried to give 10-methoxy carbamazepine.

reactant | 10-methoxyiminostilbene | 10 g | COC1=CC2=CC=CC=C2NC3=CC=CC=C31 | C15H13NO
reactant | sodium cyanate | 17.5 g | [O-]C#N.[Na+]
reactant | mandelic acid | 24 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 10-methoxy carbamazepine | COC1=CC2=CC=CC=C2N(C3=CC=CC=C31)C(=O)N | C16H14N2O2
